US08119663B2
Step a): 1-(tert-Butoxycarbonyl)azetidine-3-carboxylic acid
A mixture of 100 mg (0.99 mmol) of azetidine-3-carboxylic acid and 237 mg (1.09 mmol) of di-tert-butyl dicarbonate in 1 ml of dichloromethane was stirred at room temperature for 16 h. For work-up, the solvent was removed under reduced pressure, and the residue was used without any further purification. Yield: 175 mg (88% of theory).

reactant | azetidine-3-carboxylic acid | 0.99 mmol, 100 mg | N1CC(C1)C(=O)O | C4H7NO2
reactant | di-tert-butyl dicarbonate | 1.09 mmol, 237 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 1-(tert-Butoxycarbonyl)azetidine-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(C1)C(=O)O | C9H15NO4
